US08349849B2
2-amino-2-(2-(heptyloxy)quinolin-6-yl)propan-1-ol
2-(2-(heptyloxy)quinolin-6-yl)-2-nitropropan-1-ol (200 mg, 0578 mmol) was dissolved in acetic acid (5 mL). zinc (376 mg, 5.78 mmol, 10.0 eq.) was added to the mixture at 0° C. and the mixture was stirred at 20° C. for 15 h. Saturated sodium carbonate solution was added to the mixture until pH=8. Then the mixture was extracted with EtOAc and the organic layer was concentrated and purified by silica gel column chromatography using dichloromethane/methanol (10/1) as eluent to give product (50 mg, 27%) as a slight yellow solid. ESI-MS: 317.2 (M+H)+. HPLC: 95.99%. 1H NMR (400 MHz, CD3OD) δ 8.09 (d, 1H), 7.81-7.79 (m, 2H), 7.68 (q, 1H), 6.92 (d, 1H), 4.38 (t, 2H), 3.84 (d, 1H), 3.74 (d, 1H), 1.86-1.75 (m, 2H), 1.70 (s, 3H), 1.43-1.25 (m, 8H), 0.85 (t, 3H).

reactant | 2-(2-(heptyloxy)quinolin-6-yl)-2-nitropropan-1-ol | 200 mg | C(CCCCCC)OC1=NC2=CC=C(C=C2C=C1)C(CO)(C)[N+](=O)[O-] | C19H26N2O4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 5.78 mmol, 376 mg, 10.0 eq. | [Zn] | Zn
product | 2-amino-2-(2-(heptyloxy)quinolin-6-yl)propan-1-ol | 50 mg, 27% | NC(CO)(C)C=1C=C2C=CC(=NC2=CC1)OCCCCCCC | C19H28N2O2
